US08138211B2
Preparation of N′-(4-{[3-(4-chlorobenzyl)-4-cyanoisothiazol-5-yl]oxy}-2,5-dimethylphenyl)-N-ethyl-N-methylimidoformamide (Ex. No. 27)
A solution of 1.80 g (4.87 mmol) of 5-(4-amino-2,5-dimethylphenoxy)-3-(4-chlorobenzyl)isothiazole-4-carbonitrile and 0.91 g (6.8 mmol) of N-(dimethoxymethyl)-N-methylethanamine in 60 ml of toluene is stirred at 80° C. for 22 h. Another 0.91 g (6.8 mmol) of N-(dimethoxymethyl)-N-methylethanamine is added, and the solution is then stirred for a further 22 h.

reactant | 5-(4-amino-2,5-dimethylphenoxy)-3-(4-chlorobenzyl)isothiazole-4-carbonitrile | 4.87 mmol, 1.80 g | NC1=CC(=C(OC2=C(C(=NS2)CC2=CC=C(C=C2)Cl)C#N)C=C1C)C | C19H16ClN3OS
reactant | N-(dimethoxymethyl)-N-methylethanamine | 6.8 mmol, 0.91 g | COC(N(CC)C)OC | C6H15NO2
reactant | N-(dimethoxymethyl)-N-methylethanamine | 6.8 mmol, 0.91 g | COC(N(CC)C)OC | C6H15NO2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | N′-(4-{[3-(4-chlorobenzyl)-4-cyanoisothiazol-5-yl]oxy}-2,5-dimethylphenyl)-N-ethyl-N-methylimidoformamide | ClC1=CC=C(CC2=NSC(=C2C#N)OC2=CC(=C(C=C2C)N=CN(C)CC)C)C=C1 | C23H23ClN4OS
